US03975414
Preparation of N,N'-bis(4-anilinophenyl)-4-thiaheptanediamide
To a suspension of 20.4 grams of N-4(anilinophenyl)acrylamide in 200 milliliters of ethanol was added 23.3 grams of N-(4-anilinophenyl)-3-mercaptopropionamide. A solution of one gram of potassium hydroxide in 10 milliliters of ethanol was added at 17.5°C. Within a few minutes the temperature began to rise, reaching a maximum of 28°C. Simultaneous with the increase in temperature, product began to precipitate. The reaction mixture was stirred for 2 hours. The solid product was filtered off and allowed to dry. There was obtained 41 grams (94 percent of theory) of product which melted at 199°-203°C.

reactant | N-(4-anilinophenyl)-3-mercaptopropionamide | 23.3 grams | N(C1=CC=CC=C1)C1=CC=C(C=C1)NC(CCS)=O | C15H16N2OS
reactant | potassium hydroxide | one gram | [OH-].[K+]
solvent | ethanol | 200 milliliters | C(C)O | C2H6O
solvent | ethanol | 10 milliliters | C(C)O | C2H6O
product | N,N'-bis(4-anilinophenyl)-4-thiaheptanediamide | N(C1=CC=CC=C1)C1=CC=C(C=C1)NC(CCSCCC(=O)NC1=CC=C(C=C1)NC1=CC=CC=C1)=O | C30H30N4O2S
